US04728663
N-[8-(1H-Imidazol-1yl)octyl]benz[cd]indole-2-amine, dihydrochloride
A mixture of 2.1 g of 8-(1H-imidazol-1-yl)octanamine, 400 ml of ethanol, and 3.2 g of 2-(methylthio)benz[cd]indole hydroiodide was reacted as described in Example 19, giving the base derivative which was then treated with hydrochloric acid giving 1.3 g of the desired hydrochloride salt, mp 222°-224° C.

reactant | 8-(1H-imidazol-1-yl)octanamine | 2.1 g | N1(C=NC=C1)CCCCCCCCN | C11H21N3
reactant | 2-(methylthio)benz[cd]indole hydroiodide | 3.2 g | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
reactant | hydrochloric acid | 1.3 g | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-[8-(1H-Imidazol-1yl)octyl]benz[cd]indole-2-amine, dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCCCCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C22H26N4.2ClH/c1(2-4-6-15-26-16-14-23-17-26)3-5-13-24-22-19-11-7-9-18-10-8-12-20(25-22)21(18)19;;/h7-12,14,16-17H,1-6,13,15H2,(H,24,25);2*1H
